US06362201B1
1-(N-(3-Aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine
To a solution of 0.1 g (0.16 mmol) of 1-(N-(3-t-butoxycarbonyl aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine in 2 mL of CH2C2 was added 0.3 mL of a 1M solution of TFA in dichloroethane and the reaction mixture was stirred at rt for 24 h. The reaction mixture was then diluted with toluene and concentrated. The residue was purified by chromatography (silica, CHCl3: MeOH: NH3, 90:10:1) to give 0.07 g of the title compound. Mass Spectrum (EI) m/e 503 (M+1).

reactant | 1-(N-(3-t-butoxycarbonyl aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 0.16 mmol, 0.1 g | C(C)(C)(C)OC(=O)C(CCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F)N | C36H47FN4O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-(3-Aminopropyl)-7-indolecarbonyl)-3-(R)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(S)-(cyclopropyl)pyrrolidine | 0.07 g | NCCCN1C=CC2=CC=CC(=C12)C(=O)N1C[C@H]([C@@H](C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C31H39FN4O
